US08044075B2
5-(aminosulfonyl)-2-chloro-N-[5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl]benzamide
To a 20 ml scintillation vial containing a Teflon covered magnetic stir-bar was added commercially available 5-(4-fluorophenyl)-1,3,4-thiadiazol-2-amine (25 mg, 0.128 mmol) and 5-(aminosulfonyl)-2-chlorobenzoic acid (22.3 mg, 0.128 mmol). To this mixture was added EDC (25 mg, 0.128 mmol) and HOAt (18 mg, 0.128 mmol) followed by 3 ml of DCM. The resulting mixture was stirred at room temperature overnight. The product precipitated and was collected by vacuum filtration, washed with 3 ml of MeOH and air-dried under vacuum. Yield of 5-(aminosulfonyl)-2-chloro-N-[5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl]benzamide was (7 mg) as a white powder.

reactant | 5-(4-fluorophenyl)-1,3,4-thiadiazol-2-amine | 0.128 mmol, 25 mg | FC1=CC=C(C=C1)C1=NN=C(S1)N | C8H6FN3S
reactant | 5-(aminosulfonyl)-2-chlorobenzoic acid | 0.128 mmol, 22.3 mg | NS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO4S
reactant | EDC | 0.128 mmol, 25 mg
reactant | HOAt | 0.128 mmol, 18 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 5-(aminosulfonyl)-2-chloro-N-[5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl]benzamide | NS(=O)(=O)C=1C=CC(=C(C(=O)NC=2SC(=NN2)C2=CC=C(C=C2)F)C1)Cl | C15H10ClFN4O3S2
